US05726319
Step A: N-(t-Butoxycarbonyl)-D-homophenylalanine allyl ester
N-(t-Butoxycarbonyl)-D-homophenylalanine (2.0 g; 7.16 mmol), allyl alcohol (500 ml; 7.35 mmol) and 4-dimethylaminopyridine (88 mg; 0.72 mmol) were dissolved in dry methylene chloride and stirred at room temperature. EDC (1.4 g; 7.30 mmol) was added to the solution in small batches over 15 minutes and the reaction mixture stirred at room temperature for 6 h. The reaction was quenched by pouring the reaction mixture into water (10 ml) and extracted with methylene chloride (2×25 ml). The combined methylene chloride extracts were washed successively with 5% aqueous citric acid solution (50 ml) and a 10% aqueous sodium carbonate solution. The methylene chloride layer was dried over anhydrous magnesium surf ate powder, filtered and evaporated to leave a thick oily residue which was purified by column chromatography on silica gel using an eluant comprising ethyl acetate and hexanes in the ratio 2:1. The yield of the desired allyl ester product was 1.96 g (85.7%). FAB-MS:- calculated for C18 H25NO4 319.2; found 320. (M+1).

reactant | N-(t-Butoxycarbonyl)-D-homophenylalanine | 7.16 mmol, 2.0 g | C(C)(C)(C)OC(=O)N[C@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | allyl alcohol | 7.35 mmol, 500 ml | C(C=C)O | C3H6O
reactant | EDC | 7.30 mmol, 1.4 g
catalyst | 4-dimethylaminopyridine | 0.72 mmol, 88 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonyl)-D-homophenylalanine allyl ester | C(C=C)OC([C@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O | C18H25NO4
